US07235557B2
Bis amide 17. The 2,2-dimethyl-N-(4-iodo-3-pyridinyl)propanamide (700 mg, 2.3 mmol) and 2-diisopropylbenzamide boronic acid (1.3 g, 5.2 mmol) were dissolved in DMF. Tetrakis(triphenylphosphine)palladium (133 mg, 0.11 mmol) and 2 M sodium carbonate solution (2.2 mL) were added. The reaction was refluxed at 83° C. for 18 h The mixture was concentrated in vacuo, extracted with EtOAc, washed with brine and dried with sodium sulfate. The crude oil was chromatographed (CH2Cl2, 1%-5% MeOH/CH2Cl2) to obtain 2-[3-2,2-dimethyl-propionylamino)-pyridin-4-yl]-N,N-diisopropylbenzamide as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ 9.08 (s, 1 H), 8.64 (s, 1 H), 8.43 (d, 1H), 7.58–7.48 (m, 2 H), 7.40 (dd, 1 H), 7.33 (d, 1 H), 7.24 (dd, 1 H), 3.53–3.36 (m, 2 H), 1.38 (d, 3 H), 1.01 (d, 3 H), 0.97 (s, 9 H), 0.91 (d, 3 H), 0.77 (d, 3 H); MS (ES+)=382.

reactant | 2,2-dimethyl-N-(4-iodo-3-pyridinyl)propanamide | 2.3 mmol, 700 mg | CC(C(=O)NC=1C=NC=CC1I)(C)C | C10H13IN2O
reactant | sodium carbonate | 2 M, 2.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.11 mmol, 133 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N-diisopropylbenzamide | C(C)(C)N(C(C1=CC=CC=C1)=O)C(C)C | C13H19NO
